** sch_path: /foss/designs/designs_/two_stage_ota/pex/tw_stage_ota_s_cloop.sch
**.subckt tw_stage_ota_s_cloop
I0 net1 GND 16u
V1 VDD GND 3.3
V3 Vcm GND 1
Cl1 vout GND 2p m=1
x1 VDD net1 net2 Vcm vout GND two_stage_ota_s
X999 vout net2 loopgainprobe
**** begin user architecture code



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ




.include  /foss/designs/designs_/ITI_Analog/Misc/LoopGainProbe/stb.spi
.include /foss/designs/designs_/two_stage_ota/kpex_test/output/two_stage_ota_s_flatten__two_stage_ota_s/magic_CC/two_stage_ota_s.pex.spice



**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/designs_/two_stage_ota/pex/two_stage_ota_s.sym # of pins=6
** sym_path: /foss/designs/designs_/two_stage_ota/pex/two_stage_ota_s.sym
** sch_path: /foss/designs/designs_/two_stage_ota/pex/two_stage_ota_s.sch
.subckt two_stage_ota_s vdd ibias vinn vinp vout vss
.ends


* expanding   symbol:  /foss/designs/designs_/ITI_Analog/Misc/LoopGainProbe/loopgainprobe.sym # of pins=2
** sym_path: /foss/designs/designs_/ITI_Analog/Misc/LoopGainProbe/loopgainprobe.sym
** sch_path: /foss/designs/designs_/ITI_Analog/Misc/LoopGainProbe/loopgainprobe.sch
.subckt loopgainprobe a b
*.iopin a
*.iopin b
**** begin user architecture code



Ii 0 x DC 0 AC 0
Vi x a DC 0 AC 1
Vnodebuffer b x 0




**** end user architecture code
.ends

.GLOBAL GND
.GLOBAL VDD
.end
